US06518423B1
8-(N-Methyl)aminomethyl-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine
8-Chloromethyl-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine was stirred in a solution of methylamine in methanol at room temperature over day and night. Then the reaction mixture was distilled under reduced pressure and the residue was distributed into sodium hydroxide and ethyl acetate. The organic layer was extracted and dried over anhydrous sodium sulfate. After distilling off the solvent under reduced pressure, the obtained residue was purified by silica gel column chromatography (eluted with dichloromethane/methanol) to thereby give the title compound as a yellow oily substance.

reactant | 8-Chloromethyl-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine | ClCC=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1 | C13H12ClN3OS
reactant | methylamine | CN | CH5N
solvent | methanol | CO | CH4O
product | 8-(N-Methyl)aminomethyl-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine | CNCC=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1 | C14H16N4OS
